US05556969
Step 3: (+)-3(R)-(2(R)-Amino-3-phenylpropionylamino)-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one
3(R,S)-[2(R)-(tert-Butyloxycarbonyl)amino-3-phenylpropionylamino]-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one (4.7 g) was dissolved in ethyl acetate (20 ml) and cooled to 0° C. This solution was then saturated with hydrogen chloride gas. After 1.5 h, the resulting precipitate (which was shown to be the undesired diastereoisomer, Rf=0.04 ethyl acetate), was removed by filtration and the filtrate evaporated. The solid residue was partitioned between ethyl acetate (25 ml) and 10% sodium carbonate solution (20 ml). The organic phase was separated and the aqueous extracted with ethyl acetate (2×25 ml). The combined organic phases were dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed on silica gel using a gradient elution of 0-20% methanol in ethyl acetate to afford the title compound (1.66 g). Mp 100°-103° C. 1H NMR (360 MHz, CDCl3) δ 1.00-1.39 (4H, m), 1:50-1.72 (4H, m), 1.84-1.92 (1H, m), 2.00-2.07 (1H, m), 2.72-2.84 (2H, m), 3.28 (1H, dd, J=13.8 and 4.0 Hz), 3.40 (3H, s), 3.69 (1H, dd, J=9.8 and 4.1 Hz), 5.36 (1H, d, J=8.3 Hz), 7.21-7.36 (7H, m), 7.47-7.58 (2H, m), 8.66 (1H, d, J=8.3 Hz). [α]D23 +32.7° (c=0.58, CH3OH).

reactant | 3(R,S)-[2(R)-(tert-Butyloxycarbonyl)amino-3-phenylpropionylamino]-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 4.7 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)NC1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2)C)=O)CC2=CC=CC=C2 | C30H38N4O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (+)-3(R)-(2(R)-Amino-3-phenylpropionylamino)-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 1.66 g | N[C@@H](C(=O)N[C@H]1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2)C)=O)CC2=CC=CC=C2 | C25H30N4O2
